US05569768
4,4-Dimethoxy-L-proline methyl ester (1.35 moles, 0.257 g) and 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid (1.23 moles, 0.5 g) were reacted in the presence of hydroxybenzotriazole and dicyclohexylcarbodiimide as in Example 15 to yield 0.220 g of 1-[1-oxo-2-[5-2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octyl]-4,4-dimethoxy-L-proline. (MS).

reactant | 4,4-Dimethoxy-L-proline methyl ester | 1.35 moles, 0.257 g | COC([C@H]1NCC(C1)(OC)OC)=O | C8H15NO4
reactant | 2-[5-[2-(2H-tetrazol-5-yl)phenyl]-1H-benzimidazol-1-yl]octanoic acid | 1.23 moles, 0.5 g | N=1NN=NC1C1=C(C=CC=C1)C1=CC2=C(N(C=N2)C(C(=O)O)CCCCCC)C=C1 | C22H24N6O2
reactant | hydroxybenzotriazole | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dicyclohexylcarbodiimide | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | 4,4-dimethoxy-L-proline | COC1(C[C@H](NC1)C(=O)O)OC | C7H13NO4
